* C:\Users\Mark\Documents\Working-Projects\LeakageModel\LTspice\PTM_model_tb.asc
V1 N001 0 1
V2 N002 0 1.9
XX1 0 N001 N001 N002 leakagemodel params: f = {fSW}, C = 45n, RSW = 112, T = 0.0105, B = 0.0105, Ileak = 108n

* block symbol definitions
.subckt leakagemodel B1 B2 T1 T2
R2 BP2 N002 {1/(C*F)}
B3 N002 BP1 V=(V(TP2) - V(TP1))
B4 BP1 BP2 I={B*C*F*(V(BP1) - V(BP2))}
R1 TP2 N001 {1/(C*F)}
B5 TP1 T1 V={A*(V(B1) - V(B2) + V(T2) - V(T1))/(2*(A+1))}
B7 N001 TP1 V=(V(BP2) - V(BP1))
B8 TP1 TP2 I={T*C*F*(V(TP1) - V(TP2))}
B6 T2 TP2 V={A*(V(B1) - V(B2) + V(T2) - V(T1))/(2*(A+1))}
B9 TP2 TP1 I={ILeak}
B10 BP2 BP1 I={ILeak}
B1 BP1 B1 V={-A*(V(B1) - V(B2) + V(T2) - V(T1))/(2*(A+1))}
B2 B2 BP2 V={-A*(V(B1) - V(B2) + V(T2) - V(T1))/(2*(A+1))}
.param C=1n F=0.025Meg RSW=1000 T=0 B=0 ILeak=0
.param A={exp(-1/(C*F*RSW*(4+B+T)))}
.ends leakagemodel

.step param fSW 1k 75k 1k
.op
.backanno
.end
