* C:\Users\Mark\Documents\Working-Projects\LeakageModel\LTspice\PTM_tb.asc
XX1 N003 0 N001 N001 N002 TP BP sccore_ptm params: CFly=45n, T=0.01 B =0.01
V§IN N001 0 1
V§OUT N002 0 1.9
V3 N003 0 PULSE(0 1 0 0.05n 0.05n {T_SW/2} {T_SW})

* block symbol definitions
.subckt sccore_ptm Ctrl VB1 VB2 VT1 VT2 TP BP
M1 TP N004 VT2 VT2 PMOS w=531u
M2 BP N003 VB2 VB2 PMOS w=531u
M3 VB1 N001 BP VB1 NMOS w=100u
M4 VT1 N002 TP VT1 NMOS w=100u
C1 TP BP {Cfly}
B1 N001 VB1 V=V(Ctrl)
B2 N002 VT1 V=V(Ctrl)
C2 0 TP {T*Cfly}
C3 BP 0 {B*Cfly}
B3 VB2 N003 V=1-V(Ctrl)
B4 VT2 N004 V=1-V(Ctrl)
.include PMOS.txt
.param Cfly=5n T=0.01 B=0.01
.include NMOS.txt
.ends sccore_ptm

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Mark\Documents\LTspiceXVII\lib\cmp\standard.mos
.param f_SW=1k T_SW=1/{f_SW}
.tran 0 {30*T_SW} {28*T_SW} 10n
.backanno
.end
