* C:\Users\Mark\Documents\Working-Projects\Monolithic DC-DC Synthesis\AdvancedModels\spice\4Term_TB.asc
XX1 N001 N002 0 0 4term_model_eq params: C = 2n, RSW=1, B = 0.02, T = 0.02, fSW=5Meg
XX2 N003 N004 N005 0 0 NC_01 NC_02 sccore params: C = 1n, RSW=0.5, B = 0.02, T = 0.02
V1 N001 0 SINE(1 0 {fTest})
V3 N002 0 SINE(0 0 {fTest})
V4 N004 0 SINE(0 0 {fTest})
V2 N003 0 SINE(0 1 {fTest})
V5 N005 0 PULSE(0 1 0 1p 1p 0.1u 0.2u)
XX3 N003 N004 clk 0 0 NC_03 NC_04 sccore params: C = 1n, RSW=0.5, B = 0.02, T = 0.02
V6 clk 0 PULSE(0 1 0.1u 1p 1p 0.1u 0.2u)
I1 0 0 PULSE(1A 0 0 1p 1p 1p 0.2u)

* block symbol definitions
.subckt 4term_model_eq B1 B2 T1 T2
B3 N007 B1 V=(V(T2) - V(T1))
R1 T2 N001 {(A+1)*(A+1)/(C*F*{1 - A*A*(1+B) - A*T})}
B7 N001 T1 V=(V(B2) - V(B1))
R3 T2 T1 {(1+A)/((A*B+T)*C*F)}
R4 B2 B1 {(1+A)/((A*T+B)*C*F)}
R2 B2 N007 {(A+1)*(A+1)/(C*F*{1 - A*A*(1+T) - A*B})}
R6 T2 N003 {RSW*2}
C1 N002 N005 {C/2}
C2 N003 N006 {C/2}
C3 0 N006 {B*C}
C4 0 N003 {T*C/2}
R7 N006 B2 {RSW*2}
R5 T1 N002 {RSW*2}
R8 N005 B1 {RSW*2}
C5 0 N002 {T*C}
C6 0 N005 {B*C}
.param A={exp(-1/(C*fSW*RSW*(4+B+T)))}
.param C=1n F={fSW} RSW=1000 T=0 B=0
.ends 4term_model_eq

.subckt sccore B1 B2 clk1 T1 T2 VTP VBP
C1 VTP VBP {C}
C2 0 VTP {T*C}
C3 VBP 0 {B*C}
S1 VBP B1 clk1 0 SW
S2 B2 VBP clk2 0 SW
S3 T2 VTP clk2 0 SW
S4 VTP T1 clk1 0 SW
B1 clk2 0 V=1-V(clk1)
.model SW SW(Ron={RSW} Roff=10Meg Vt=.5 Vh=-0.05)
.param C=1n T=0 B=0
.ends sccore

* .step dec param fTest 1Meg 100Meg 3
.tran 0 210u 10u 50p
.param TSig=1/fTest
.param fTest 100k
.backanno
.end
